US08067406B2
(7) Production of 2-(2-(6-methoxy-1-benzofuran-5-yl)ethoxy)acetic acid
1.75 g of 2-(6-methoxy-1-benzofuran-5-yl)-1-ethanol was dissolved in a mixed solution consisting of 7.0 ml of tert-butanol and 1.75 ml of N,N-dimethylformamide. Thereafter, 2.2 g of 1-chloroacetylpiperidine and 1.54 g of potassium tert-butoxide were added to the obtained solution, while cooling on ice. The obtained mixture was stirred at the same temperature for 30 minutes and then at a room temperature for 2 hours. Thereafter, water and ethyl acetate were added to the reaction mixture. The pH of the obtained mixture was adjusted to pH 1 by addition of 6 mol/l hydrochloric acid, and an organic layer was separated. The organic layer was successively washed with water and a saturated saline solution, and then dried over anhydrous magnesium sulfate. The solvent was then distilled away under a reduced pressure. The residue was dissolved in 10.5 ml of a 90% aqueous ethanol solution. Thereafter, 0.91 g of sodium hydroxide was added thereto, and the obtained mixture was then heated to reflux for 3 hours. After cooling, water and ethyl acetate were added to the reaction mixture. The pH of the obtained mixture was adjusted to pH 1 by addition of 6 mol/l hydrochloric acid, and an organic layer was separated. The organic layer was successively washed with water and a saturated saline solution, and then dried over anhydrous magnesium sulfate. The solvent was then distilled away under a reduced pressure. Thereafter, diisopropyl ether was added to the residue, and precipitated crystals were then collected by filtration. The obtained crystals were washed with diisopropyl ether and then dried, so as to obtain 1.42 g of a yellow crystal, 2-(2-(6-methoxy-1-benzofuran-5-yl)ethoxy)acetic acid.

reactant | 2-(6-methoxy-1-benzofuran-5-yl)-1-ethanol | 1.75 g | COC1=CC2=C(C=CO2)C=C1CCO | C11H12O3
reactant | tert-butanol | 7.0 ml | C(C)(C)(C)O | C4H10O
reactant | potassium tert-butoxide | 1.54 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 6 mol/l | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 1.75 ml | CN(C=O)C | C3H7NO
product | 2-(2-(6-methoxy-1-benzofuran-5-yl)ethoxy)acetic acid | 1.42 g | COC1=CC2=C(C=CO2)C=C1CCOCC(=O)O | C13H14O5
